US06908939B2
(e) tert-butyl [4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamate
30 g (70.7 mmol) of tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate in 500 ml of dioxane are introduced into a three-necked flask. The reaction medium is degassed, 30 g of palladium on carbon (10%) are added and the mixture is hydrogenated at a pressure of 3 bar at 60° C. The reaction medium is filtered, evaporated off and the residue obtained is purified by chromatography on a silica column eluted with a dichloromethane and methanol (99-1) mixture. 18 g (60%) of the expected product are recovered after evaporation of the solvents.

reactant | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate | 70.7 mmol, 30 g | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H24N2O4S
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamate | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H26N2O4S
